US04243609
A mixture of 6.0 g. of ethyl 2-fluoro-4-(hexadecylamino)phenylacetate, 7.0 g. of potassium hydroxide and 100 ml. of ethanol-water is heated to reflux for 4 hours. While hot, the mixture is adjusted to pH 7 with conc. hydrochloric acid. The mixture is diluted with water, cooled and filtered. Recrystallization of the precipitate yields 2-fluoro-4-(hexadecylamino)phenylacetic acid.

reactant | ethyl 2-fluoro-4-(hexadecylamino)phenylacetate | FC1=C(C=CC(=C1)NCCCCCCCCCCCCCCCC)CC(=O)OCC | C26H44FNO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol water | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-fluoro-4-(hexadecylamino)phenylacetic acid | FC1=C(C=CC(=C1)NCCCCCCCCCCCCCCCC)CC(=O)O | C24H40FNO2
